US06313122B1
Preparation of N-(3-Aminophenyl)-2-[(4-tert-butylbenzoyl)amino]benzamide
By methods substantially equivalent to those described in Example 96, the title compound (40 mg, 9% for two steps) was prepared from m-(benzyloxycarbonylamino)aniline 1.5 mmol) and 2-(4-tert-butylphenyl)-4H-3,1-benzoxazin-4-one (1.5 mmol).

reactant | m-(benzyloxycarbonylamino)aniline | 1.5 mmol | C(C1=CC=CC=C1)OC(=O)NC=1C=C(N)C=CC1 | C14H14N2O2
reactant | 2-(4-tert-butylphenyl)-4H-3,1-benzoxazin-4-one | 1.5 mmol | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(C(O1)=O)C=CC=C2 | C18H17NO2
product | N-(3-Aminophenyl)-2-[(4-tert-butylbenzoyl)amino]benzamide | 40 mg, 9% | NC=1C=C(C=CC1)NC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C24H25N3O2
